Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Urinary tract infection
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Ms. ___ is a ___ year-old ___ speaking female with hx of 
chronic idiopathic urticaria who presented to the ED with 
hematuria, suprapubic pain, and dysuria. She reports that she 
awoke at 2am on the day of admission to void and noted a pinkish 
color to her urine. She reports dysuria, increased urinary 
frequency, and voiding small amounts in the two days prior to 
admission. She endorses nausea, but denies vomiting. She denies 
fever, chills, dizziness or lightheadedness. She reports no 
prescription or OTC medication use.  
.  
In the ED, initial vs were: T 98.3 P 77 BP 110/49 R 16 O2 sat. 
99% on RA. On exam, the patient was noted to have BPs in the 
___. She was given 1L NS bolus with BP response to 100/50s. 
Urinalysis showed UTI. Abd/pelvic CTU showed no evidence of 
stones, pyelonephritis or diverticulitis and no acute intra-abd 
or pelvic abnormality. Labs were notable for a WBC count of 16.1 
with left shift (77% neutrophils) and lactate of 2.2. Blood 
cultures x2 and urine cx were sent. The patient was given 
ciprofloxacin 400mg IV for uncomplicated cystitis. She was 
admitted to medicine due to concerns over hypotension.  
.  
On presentation to the floor, the patient's BP was 115/65 after 
administration of 2L NS in the ED. She remained afebrile.  
.  
Review of systems:  
(+) Per HPI  
(-) Denies fever, chills, night sweats, recent weight loss or 
gain. Denies headache, sinus tenderness, rhinorrhea or 
congestion. Denies cough, shortness of breath. Denies chest pain 
or tightness, palpitations. Denies vomiting, diarrhea, 
constipation or abdominal pain beyond suprapubic region. No 
recent change in bowel habits. Denies arthralgias or myalgias.  

 
Past Medical History:
chronic idiopathic urticaria (followed in allergy clinic)  
dyspepsia  
s/p hysterectomy for cystocele and uterine prolapse (___)  
s/p cholecystectomy (___) 

 
Social History:
___
Family History:
father died age ___ from bowel cancer, mother alive with 
hypercholesterolemia and hypertension, and ___ younger sisters and 
___ younger brothers all alive and well. 

 
Physical Exam:
Vitals: T: 96.9 BP: 115/65 P: 74 R: 18 O2: 99% RA  
General: Well-developed Asian female resting comfortably in no 
acute distress  
HEENT: Sclera anicteric, MMM, oropharynx clear  
Neck: supple, JVP not elevated, no LAD  
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
ronchi  
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Abdomen: soft, non-tender, non-distended, bowel sounds present, 
no rebound tenderness or guarding, no organomegaly
GU: mild suprapubic tenderness, no bladder distention by 
percussion, no CVA tenderness  
Ext: Warm, well perfused, 2+ DP pulses, no clubbing, cyanosis or 
edema 
Neuro: Alert and oriented x3, CN II-XII intact, normal strength 
and sensation throughout  

 
Pertinent Results:
___ 04:20AM URINE  COLOR-Red APPEAR-Cloudy SP ___
___ 04:20AM URINE  BLOOD-LG NITRITE-NEG PROTEIN-75 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-6.5 
LEUK-MOD
___ 04:20AM URINE  RBC->50 ___ BACTERIA-FEW 
YEAST-NONE ___

urine culture pending

___ 07:49AM   LACTATE-2.2___ 04:41AM   GLUCOSE-138* UREA N-24* CREAT-0.8 SODIUM-135 
POTASSIUM-3.7 CHLORIDE-101 TOTAL CO2-24 ANION GAP-14
___ 04:41AM   ALT(SGPT)-26 AST(SGOT)-31 ALK PHOS-111* TOT 
BILI-0.3
___ 04:41AM   LIPASE-45
___ 04:41AM   cTropnT-<0.01
___ 04:41AM   ALBUMIN-4.0 PHOSPHATE-4.1 MAGNESIUM-2.5
___ 04:41AM   WBC-16.1*# RBC-4.73 HGB-13.7 HCT-38.8 MCV-82 
MCH-29.0 MCHC-35.4* RDW-12.7
___ 04:41AM   NEUTS-77* BANDS-0 LYMPHS-17* MONOS-3 EOS-3 
BASOS-0 ___ MYELOS-0
___ 04:41AM   ___ PTT-20.8* ___
___ 05:00AM BLOOD WBC-6.0# RBC-4.61 Hgb-13.3 Hct-37.9 
MCV-82 MCH-28.8 MCHC-35.0 RDW-12.8 Plt ___
 
Brief Hospital Course:
Ms. ___ is a ___ with lower urinary tract infection with no 
evidence of pyelonephritis. In the ED, she was hypotensive, 
although the patient became normotensive after administration of 
2L NS.  
.
Brief Hospital Course by Problem:
.
# Cystitis: UTI on urinalysis with no evidence of pyelonephritis 
or obstruction on CTU. Patient was afebrile throughout 
hospitalization. Her WBC count was elevated to 16.1 on 
admission, which normalized to 6.0 on hospital day 2. The 
patient was treated with ciprofloxacin 250mg PO q12h and is 
being discharged on day 2 of 5 of this regimen. Urine and blood 
cultures were pending at the time of discharge and these will be 
followed up by the discharging attending.  
.  
# Hypotension: Likely due to dehydration given resolution with 
fluids and initial Bun/Cr 30. The patient received 1L NS bolus 
x2 in the ED and maintainance fluids on the floor. Her BP was in 
the 100s-110s/50s-60s without tachycardia. Orthostatic vital 
signs were negative. 

 
Medications on Admission:
None
 
Discharge Medications:
Ciprofloxacin 250mg PO Q12h
 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Urinary tract infection

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were hospitalized with a urinary tract infection and low 
blood pressure. CT showed no evidence of kidney infection. Your 
blood pressure was low in the emergency department. This 
resolved with IV hydration. You were given the antibiotic 
ciprofloxacin for bladder infection. You should continue to take 
this medication for four days following discharge from the 
hospital. Urine and blood culture was pending at the time of 
discharge. 
 
Followup Instructions:
___